US09388199B2
D. 2-(3-Carbamoyl-5-(pyrimidin-2-ylmethoxy)-1H-indazol-1-yl)acetic acid
The title compound was prepared from tert-butyl 2-(3-cyano-5-(pyrimidin-2-ylmethoxy)-1H-indazol-1-yl)acetate in a similar manner as described in step D of Scheme A6 for the preparation of 2-(3-carbamoyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetic acid. MS (LC-MS): 328.2 [M+H]+, 326.3 [M−H]−, tR (HPLC conditions e): 2.77 min.

reactant | tert-butyl 2-(3-cyano-5-(pyrimidin-2-ylmethoxy)-1H-indazol-1-yl)acetate | C(#N)C1=NN(C2=CC=C(C=C12)OCC1=NC=CC=N1)CC(=O)OC(C)(C)C | C19H19N5O3
reactant | 2-(3-carbamoyl-1H-pyrazolo[3,4-c]pyridin-1-yl)acetic acid | C(N)(=O)C1=NN(C2=CN=CC=C21)CC(=O)O | C9H8N4O3
product | 2-(3-Carbamoyl-5-(pyrimidin-2-ylmethoxy)-1H-indazol-1-yl)acetic acid | C(N)(=O)C1=NN(C2=CC=C(C=C12)OCC1=NC=CC=N1)CC(=O)O | C15H13N5O4
